US05688803
A mixture of 2 g (10 mmol) of 2-amino-4,6-dichlorobenzoic acid and 1.6 g (30 mmol) of urea was heated to 160° C. for 2 hrs. and at 180° C. for a further 2 hrs. The resulting brown mass was triturated with 200 ml of methanol, filtered off and dried in a vacuum. 880 mg (40%) of 5,7-dichloro-1,2,3,4-tetrahydroquinazoline-2,4-dione were obtained as beige crystals;

reactant | 2-amino-4,6-dichlorobenzoic acid | 10 mmol, 2 g | NC1=C(C(=O)O)C(=CC(=C1)Cl)Cl | C7H5Cl2NO2
reactant | urea | 30 mmol, 1.6 g | NC(=O)N | CH4N2O
product | 5,7-dichloro-1,2,3,4-tetrahydroquinazoline-2,4-dione | 880 mg, 40% | ClC1=C2C(NC(NC2=CC(=C1)Cl)=O)=O | C8H4Cl2N2O2
